* PSpice Model Editor - Version 10.0.0
*
* DIODES:
*   MYD
*   UF4007
*   1N4007
*   1N4007-D
*   1N4007G-D
*   1N4007GL-D
*   15ETH06 (IRF, TO-220AC, 600V, 15A, 57nC, 51ns, hyperfast)
*   8ETH06 (IRF, TO-220AC, 600V, 8A, 120nC, 33ns, hyperfast)
*   DSEP29-12A (Ixsys, TO-220, 1200V, 30A, 40ns, soft)
*   HFA140NH60R (IRF, HALF-PAK, 600V, 140A, 490nC, 39ns, soft)
*   US1G (Diodes, SMA, 400V, 1.00A, 50.0ns, 20pF, ultrafast)
*   1N4148 (Philips, DO-35, 100V, 200mA, 4ns, 4pF, high-speed)

*$
* MYD
* Name		    Model parameters						       Unit	 Default
*******************************************************************************
* AF			flicker noise exponent							     1.0	  *
* BV			reverse breakdown knee voltage			       volt  infinite *
* CJO			zero-bias p-n capacitance				       farad 0.0	  *
* EG			bandgap voltage (barrier height)			   eV    .11	  *
* FC			forward-bias depletion capacitance coefficient       0.5	  *
* IBVL 		    low-level reverse breakdown knee current 	   amp	 0.0	  *
* IBV			reverse breakdown knee current			       amp	 1E-10	  *
* IKF			high-injection knee current				       amp	 infinite *
* IS			saturation current					           amp	 1E-14	  *
* ISR			recombination current parameter			       amp	 0.0	  *
* KF			flicker noise coefficient					         0.0	  *
* M			    p-n grading coefficient						         0.5	  *
* N			    emission coefficient						         1.0	  *
* NBV			reverse breakdown ideality factor			         1.0	  *
* NBVL		    low-level reverse breakdown ideality factor	         1.0	  *
* NR			emission coefficient for isr				         2.0	  *
* RS			parasitic resistance					       ohm	 0.0	  *
* TBV1		    bv temperature coefficient (linear)			   °C-1	 0.0	  *
* TBV2		    bv temperature coefficient (quadratic)		   °C-2	 0.0	  *
* TIKF		    ikf temperature coefficient (linear)		   °C-1	 0.0	  *
* TRS1		    rs temperature coefficient (linear)			   °C-1	 0.0	  *
* TRS2		    rs temperature coefficient (quadratic)		   °C-2	 0.0	  *
* TT			transit time						           sec	 0.0	  *
* T_ABS		    absolute temperature					       °C			  *
* T_MEASURED	measured temperature					       °C			  *
* T_REL_GLOBAL	relative to current temperature			       °C			  *
* T_REL_LOCAL	Relative to AKO model temperature			   °C			  *
* VJ			p-n potential						           volt	 1.0	  *
* XTI			IS temperature exponent						         3.0	  *
*******************************************************************************
.SUBCKT MYD A C
D1 A C MYD
.MODEL MYD D
+ IS=10N N=1 BV=1200 IBV=10E-3 VJ=0.6
.ENDS MYD

.SUBCKT DN A C
D1 A C DN
.MODEL DN D
+ N={N}
.ENDS DN

.SUBCKT D100M A C
D1 A C D100M
.MODEL D100M D
+ N=0.01 RS=100m
.ENDS D100M

*$
.SUBCKT UF4007 A C
D1 A C UF4007
.MODEL UF4007 D
+ N=3.97671  IS=3.28772E-006 RS=0.149734 EG=1.11 XTI=3 CJO=2.92655E-011  VJ=0.851862 M=0.334552 FC=0.5 TT=1.84973E-007 BV=1000 IBV=0.2 KF=0 AF=1
.ENDS UF4007

*$
.SUBCKT 1N4007 A C
D1 A C 1N4007
.MODEL 1N4007 D
+ Is=14.11n N=1.984 Rs=33.89m Ikf=94.81 Xti=3 Eg=1.11 Cjo=25.89p M=.44 Vj=.3245 Fc=.5 Bv=1500 Ibv=10u Tt=5.7u
.ENDS 1N4007

*$
.SUBCKT 1N4007-D A C
D1 A C 1N4007-D
.MODEL 1N4007-D D
+ IS=76.9p RS=42.0m BV=1.00k IBV=5.00u CJO=26.5p  M=0.333 N=1.45 TT=4.32u
.ENDS 1N4007-D

*$
.SUBCKT 1N4007G-D A C
D1 A C 1N4007G-D
.MODEL 1N4007G-D D
+ IS=65.4p RS=42.2m BV=1.00k IBV=5.00u CJO=14.8p  M=0.333 N=1.36 TT=2.88u
.ENDS 1N4007G-D

*$
.SUBCKT 1N4007GL-D A C
D1 A C 1N4007GL-D
.MODEL 1N4007GL-D D
+ IS=65.4p RS=42.2m BV=1.00k IBV=5.00u CJO=14.8p  M=0.333 N=1.36 TT=2.88u
.ENDS 1N4007GL-D

*$
.SUBCKT 15ETH06 A C
D1 A C 15ETH06
.MODEL 15ETH06 D
+IS=2.2756e-08 RS=0.0177161 N=2 EG=0.6 XTI=0.500021 BV=600 IBV=0.0001 CJO=1.6387e-10 VJ=0.71953 M=0.37991 FC=0.5 TT=1e-09 KF=0 AF=1
.ENDS 15ETH06

*$
.SUBCKT 8ETH06 A C
D1 A C 8ETH06
.MODEL 8ETH06 D
+ IS=6.92843e-10 RS=0.121017 N=2 EG=1.3 XTI=0.528448 BV=600 IBV=0.000 CJO=1.56732e-10 VJ=0.4 M=0.404011 FC=0.5 TT=1e-09 KF=0 AF=1
.ENDS 8ETH06

*$
.SUBCKT DSEP29-12A A C
D1 A C DSEP29-12A
.MODEL DSEP29-12A D
+ IS=2.6918E-6 N=4.9950 RS=18.105E-3 IKF=999 CJO=1.0000E-12 M=.3333 VJ=.75 ISR=21.145E-6 BV=1.2001E3 IBV=2.1553E-3 TT=16.681E-9
.ENDS

*$
.SUBCKT HFA140NH60R A C
D1 A C HFA140NH60R
.MODEL HFA140NH60R D
+IS=2.34895e-06 RS=0.0025 N=2 EG=1.3 XTI=0.5 BV=1000 IBV=0.0001 CJO=4.67077e-09 VJ=0.4 M=0.467713 FC=0.5 TT=1e-09 KF=0 AF=1
.ENDS

*$
.SUBCKT US1G A C
D1 A C US1G
.MODEL US1G D
+ IS=540p RS=0.116 BV=400 IBV=5.00u CJO=37.0p  M=0.333 N=1.70 TT=72.0n
.ENDS

*$
.SUBCKT 1N4148 A C
D1 A C 1N4148
.MODEL 1N4148 D
+ Is=2.52n Rs=.568 N=1.752 Cjo=4p M=.4 tt=20n Iave=200m Vpk=75 mfg=Motorola type=silicon
.ENDS

*$
.SUBCKT 30EPH06 A C
D1 A C 30EPH06
.MODEL 30EPH06 D
+ IS=3.75476e-10 RS=0.0182211 N=2 EG=0.626585 XTI=0.500695 BV=600 IBV=0.0001 CJO=3.68339e-10
+ VJ=1.27928 M=0.404368 FC=0.5 TT=1.23518e-08 KF=0 AF=1
.ENDS 30EPH06

*$
